US07608627B2
Copper(II)chloride (10.01 g, 74.5 mmol) was dissolved in N,N-dimethylformamide (75 mL) and the solution was warmed to 60° C. A solution of 2-amino-4-methyl-5-nitropyridine (9.50 g, 62.0 mmol) in N,N-dimethylformamide (145 mL) was added with addition funnel over 0.5 h. The reaction mixture was heated at 110° C. for 16 h. The reaction mixture was cooled to room temperature and poured into 3 N aqueous hydrochloric acid (300 mL), followed by extraction with diethyl ether. The organic extract was dried over sodium sulfate and adsorbed onto silica gel for purification by column chromatography (SiO2, 20:3 hexanes/ethyl acetate). 2-Chloro-4-methyl-5-nitropyridine was obtained as a yellow solid (2.10 g, 20%): 1H NMR (300 MHz, CD3OD) δ2.63 (3H, s), 7.60 (1H, s), 8.96 (1H, s); ESI MS m/z 173 [C6H5ClN2O2+H]+.

reactant | 2-amino-4-methyl-5-nitropyridine | 62.0 mmol, 9.50 g | NC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H7N3O2
reactant | hydrochloric acid | 3 N, 300 mL | Cl | ClH
solvent | N,N-dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 145 mL | CN(C=O)C | C3H7NO
catalyst | Copper(II)chloride | 74.5 mmol, 10.01 g | [Cu](Cl)Cl
product | 2-Chloro-4-methyl-5-nitropyridine | ClC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5ClN2O2
